US06800651B2
N-((3-Iodophenyl)methyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine
A solution of N-(ethylsulfonyl)pyrid-3-ylmethylamine (1.1 g, 5.5 mmol), cesium carbonate (1.79 g, 5.5 mmol), and 3-iodobenzyl bromide (1.64 g, 5.5 mmol) was stirred in N,N-dimethylformamide (25 ml) for 5 h at room temperature. The mixture was diluted with ethyl acetate (100 ml) and washed four times with water (50 ml). The organics were separated, dried over sodium sulfate, filtered, and concentrated in vacuo to a crude residue. The residue was purified by radial chromatography on a 4 micron silica plate eluting with 3% methanol/dichloromethane to afford the title compound. 1H NMR: 8.6 (d,1H,J=4 Hz), 8.41 (s,1H), 7.75 (m,1H), 7.65 (m,1H), 7.60 (s,1H), 7.25-7.40 (m,2H), 7.08 (m,1H), 4.43 (s,2H), 4.33 (s,2H), 3.08 (q,2H,J=8 Hz), 1.43 (t,3H,J=8 Hz). MS calcd. 416.3; MS (M+1) 417.1.

reactant | N-(ethylsulfonyl)pyrid-3-ylmethylamine | 5.5 mmol, 1.1 g | C(C)S(=O)(=O)NCC=1C=NC=CC1 | C8H12N2O2S
reactant | cesium carbonate | 5.5 mmol, 1.79 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-iodobenzyl bromide | 5.5 mmol, 1.64 g | IC=1C=C(CBr)C=CC1 | C7H6BrI
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-((3-Iodophenyl)methyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | IC=1C=C(C=CC1)CN(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H17IN2O2S
